US06673799B1
Benzyl 3-methylpiperazine-1-carboxylate
A 4 g portion of 2-methylpiperazine was dissolved in 40 ml of dichloromethane, and 1.71 g of benzyl chloroformate was added dropwise thereto at −78° C. After 1 hour of stirring, the mixture was washed by adding water and dried and then the solvent was evaporated to obtain 2.0 g of the title compound.

reactant | 2-methylpiperazine | CC1NCCNC1 | C5H12N2
reactant | benzyl chloroformate | 1.71 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Benzyl 3-methylpiperazine-1-carboxylate | 2.0 g | CC1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
